US09328116B2
A mixture of 1-[1-[1-(4-fluorophenyl)-5-isopropyl-pyrazol-4-yl]-2-oxo-pyrrolidin-3-yl]pyrazolo[3,4-b]pyridine-3-carbonitrile (0.082 g, 0.19 mmol) in ethane-1,2-diamine (1 mL), HOAc (0.1 mL) and EtOH (2.5 mL) was stirred at 100° C. for 1 hr. The mixture was then cooled to room temperature, quenched with saturated aqueous NaHCO3 (50 mL) and extracted with EtOAc (100 mL). The organic layer was separated, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 3-[3-(4,5-dihydro-1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one (0.085 g, 94%).

reactant | 1-[1-[1-(4-fluorophenyl)-5-isopropyl-pyrazol-4-yl]-2-oxo-pyrrolidin-3-yl]pyrazolo[3,4-b]pyridine-3-carbonitrile | 0.19 mmol, 0.082 g | FC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N1C(C(CC1)N1N=C(C=2C1=NC=CC2)C#N)=O | C23H20FN7O
reactant | ethane-1,2-diamine | 1 mL | C(CN)N | C2H8N2
solvent | HOAc | 0.1 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2.5 mL | CCO | C2H6O
product | 3-[3-(4,5-dihydro-1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]-1-[1-(4-fluorophenyl)-5-isopropylpyrazol-4-yl]pyrrolidin-2-one | 0.085 g, 94% | N1C(=NCC1)C1=NN(C2=NC=CC=C21)C2C(N(CC2)C=2C=NN(C2C(C)C)C2=CC=C(C=C2)F)=O | C25H25FN8O
